US04180394
A solution of n-butyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (14.3 g, 0.04 mole) in 250 ml. of ether was added slowly to a solution of morpholine (3.5 ml, 0.04 mole) and triethylamine (5.6 ml, 0.04 mole) in 100 ml. of ether. After three hours, the solution was filtered and the filtrate was added slowly to a cooled (0° C.) solution of p-chlorothiophenol (5.7 g, 0.04 mole) and triethylamine (5.6 ml, 0.04 mole) in 100 ml. of ether. After 16 hours at 25° C., the solution was filtered and the filtrate was concentrated in vacuo and the residual semi-solid was crystallized from ethyl acetate/cyclohexane (1/10). Recrystallization from hexane yielded butyl N-trifluoroacetyl-N-(morpholino(p-chlorothiophenoxy)phosphonomethyl)glycinate (2.1 g) as a white solid, m.p. 79.5°-81° C.

reactant | n-butyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.04 mole, 14.3 g | FC(C(=O)N(CC(=O)OCCCC)CP(=O)(OCl)OCl)(F)F | C9H13Cl2F3NO6P
reactant | morpholine | 0.04 mole, 3.5 ml | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.04 mole, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | p-chlorothiophenol | 0.04 mole, 5.7 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | triethylamine | 0.04 mole, 5.6 ml | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | butyl N-trifluoroacetyl-N-(morpholino(p-chlorothiophenoxy)phosphonomethyl)glycinate | 2.1 g | FC(C(=O)N(CC(=O)OCCCC)C(P(=O)(OSC1=CC=C(C=C1)Cl)O)N1CCOCC1)(F)F | C19H25ClF3N2O7PS
